US05965589
A mixture of ethyl 2-chloro-4-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]butyrate (0.20 g), thiourea (0.145 g), sodium acetate (0.115 g) and ethanol (15 ml) was heated under reflux for 30 hours. 6N hydrochloric acid (15 ml) was added, and the mixture was heated under reflux for 15 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated. The residue was subjected to column chromatography on silica gel. The fractions eluted with methanol-chloroform (2:98, v/v) gave 5-[2-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]ethyl]-2,4-thiazolidinedione (0.11 g, 56%). This product was recrystallized from dichloromethane-ethanol. Colorless prisms, mp: 151-152° C.

reactant | ethyl 2-chloro-4-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]butyrate | 0.20 g | ClC(C(=O)OCC)CCC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C24H26ClNO4
reactant | thiourea | 0.145 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 0.115 g | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | 6N, 15 ml | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-[2-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]ethyl]-2,4-thiazolidinedione | 0.11 g, 56% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)CCC1C(NC(S1)=O)=O | C23H22N2O4S
